US06369063B1
Preparation of N-(2,2-dimethoxyethyl)glycine tert-butyl ester:
To a mixture of 2,2-dimethoxyethylamine (15 g, 143 mmol), anhydrous potassium carbonate (20 g, 145 mmol) and DMF (140 mL) was added tert-butyl bromoacetate (11.5 mL, 71.2 mmol). After stirring at room temperature for 2 hours, another portion of tert-butyl bromoacetate (11.5 mL, 71.2 mmol) was added to the mixture, which was stirred overnight at room temperature. To the reaction mixture was added ice-water (140 mL). The mixture was extracted with EtOAc. The organic layer was washed with sat. NaCl, dried over Na2SO4, filtered and evaporated. The residue was subjected to distillation under reduced pressure to give the title compound as a colorless oil (6.61 g).

reactant | 2,2-dimethoxyethylamine | 143 mmol, 15 g | COC(CN)OC | C4H11NO2
reactant | potassium carbonate | 145 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 71.2 mmol, 11.5 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | tert-butyl bromoacetate | 71.2 mmol, 11.5 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
product | N-(2,2-dimethoxyethyl)glycine tert-butyl ester | 6.61 g | C(C)(C)(C)OC(CNCC(OC)OC)=O | C10H21NO4
